US09290517B2
Step A: tert-butyl 2-[4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-5-yl]phenyl]-4,6-dihydropyrrolo[3,4-c]pyrazole-5-carboxylate
A vial was charged with (3R,3aR,6R,6aR)-6-[5-(4-bromophenyl)-6-chloro-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (501.8 mg, 0.861 mmol), tert-butyl 4,6-dihydro-2H-pyrrolo[3,4-c]pyrazole-5-carboxylate (240.3 mg, 1.148 mmol), tripotassium phosphate (581.6 mg, 2.74 mmol), and copper (I) iodide (37.2 mg, 0.195 mmol). The vial was evacuated (3×) and backfilled with nitrogen. Trans-N,N′-dimethylcyclohexane-1,2-diamine (55 μl, 0.348 mmol) and dioxane (1.7 ml) were added to the vial to give a hazy suspension that was heated to 100° C. for 24 h. The reaction mixture was cooled to room temperature and partitioned between EtOAc (100 ml) and water (100 ml). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a pale green residue. Flash chromatography of the residue utilizing a 40 g silica RediSep Rf® column and employing a 0-100% EtOAc/hexane gradient afforded a mixture of the two pyrazole linked regioisomers as a pale amber foam. LC-MS: calculated for C34H43ClN6O7Si 710.27 observed m/e: 711.29 (M+H)+ (Rt 1.30/2 min)

reactant | (3R,3aR,6R,6aR)-6-[5-(4-bromophenyl)-6-chloro-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 0.861 mmol, 501.8 mg | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)Cl | C24H29BrClN3O5Si
reactant | tert-butyl 4,6-dihydro-2H-pyrrolo[3,4-c]pyrazole-5-carboxylate | 1.148 mmol, 240.3 mg | N=1NC=C2C1CN(C2)C(=O)OC(C)(C)C | C10H15N3O2
reactant | tripotassium phosphate | 2.74 mmol, 581.6 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.348 mmol, 55 μl | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | pyrazole | N1N=CC=C1 | C3H4N2
catalyst | copper (I) iodide | 0.195 mmol, 37.2 mg | [Cu]I
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | dioxane | 1.7 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 2-[4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-5-yl]phenyl]-4,6-dihydropyrrolo[3,4-c]pyrazole-5-carboxylate | O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)N1N=C3C(=C1)CN(C3)C(=O)OC(C)(C)C)N2)COCC[Si](C)(C)C | C34H43ClN6O7Si
